Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Cipro / Macrodantin / Gadolinium-Containing Contrast Media
 
Attending: ___
 
Chief Complaint:
headache for 6 weeks, seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
NEUROLOGY RESIDENT ADMISSION NOTE
___ (BID #: ___

Time/Date the patient was last known well: headache for six
weeks, seizure this morning at 7:00am

___ Stroke Scale score was : 0
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0
2. Best gaze: 0
3. Visual fields: 0
4. Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7. Limb Ataxia: 0
8. Sensory: 0
9. Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0

GCS Score at the Scene: [x] Unknown
- If unknown, GCS score at presentation to our ED: 15

___ and ___ score (if SAH): 1

Reason for Consult: SAH, possible VST

HPI:
___ is a ___ right-handed woman with a history
idiopathic thrombocytopenic purpura and remote left carotid body
tumor s/p resection who presents with 6 weeks of headache and
neck pain as well as seizure today. 

In ___, she was taken off of prednisone for her ITP after
___ years of treatment due to reassuring platelet counts. Two
weeks later she began to experience pain in her posterior 
neck/at
the base of her occiput. Six weeks ago, she began to experience
non-radiating bifrontal headaches with pressure-like character;
these were ___ at worst and ___ right now. The pain worsened
with lying flat. She denies accompanying photophobia,
phonophobia, N/V, or pulsating character. She does note that she
has a long-standing history of auras (describes a shimmering
C-shape); this occurred most recently yesterday and was preceded
by 20 minutes of blurry vision. She does not typically have a
headache afterwards. For her headaches, she has been taking
ibuprofen 800mg daily for 6 weeks. 

In early ___, she had an episode of right arm and leg numbness
and parethesias lasting 20 minutes. Her face was spared. She 
also
had bilateral leg heaviness but not weakness for another 24 
hours
thereafter. She was admitted to ___, and her 
work-up
included a head CT, MRI brain, and MRA brain which were
reportedly normal, per the patient. She is not sure what her
working diagnosis was, but she was not discharged on aspirin. 
She
was scheduled to follow-up with a neurologist at
___. 

This morning, she woke up and felt like her normal self. She 
then
sat down at her computer before going to work around 7:00am, and
she felt lightheaded as though she was going to lose
consciousness. She then walked to the living room and sat on the
floor, and she couldn't get words out to call out for help. The
next thing she recalls is being loaded into the ambulance. Her
two sons her a "thump" downstairs, and when they reached her, 
she
appeared to be grunting and crying while seated upright on the
floor. She then laid down on her back, appeared to lose
consciousness, and had movements of all four limbs (son
demonstrated small amplitude movements) which her sons did not
think were synchronous. She was foaming at the mouth, and her
eyes were open (one son thinks they may have been rolling back).
They laid her on her side; the shaking lasted for about 2 
minutes
(with a short break in the middle), and then she was breathing
heavily for another minute. Thereafter, she had decreased verbal
output (either not answering or answering "Mhmmm" to mean yes in
response to questions, sometimes with delayed response time). 
The
patient recalls struggling to get words out in the ambulance, 
and
she did not know the date. She remained alert, and she returned
to her cognitive baseline approximately 20 minutes later (by the
time of arrival to the outside hospital). They denied head
version, eye deviation to right or left, incontinence, or
post-ictal weakness. They were not aware of a tongue bite at 
that
time. In general, the patient denies prior history of seizures,
lost time, unexplained tongue bites, unexplained incontinence, 
or
auras (e.g., unusual tastes/smells, gastric ___,
depersonalization, derealization). 

She presented to ___ where a head CT identified 
a
left temperoparietal SAH. She received 1g of Keppra. BP was
160/90, so she also received labetalol. She was then transferred
to ___, and neurosurgery was consulted and recommended an MRV.
An MRV without contrast identified absence of signal within the
left transverse sinus suspicious for venous sinus thrombosis.
Neurology was then consulted.

On neuro ROS, the pt denies loss of vision,diplopia, dysarthria,
dysphagia, lightheadedness, vertigo, tinnitus, and hearing
difficulty. Denies focal weakness. No bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation,
or abdominal pain.  No recent change in bowel or bladder habits.
No dysuria. Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
idiopathic thrombocytopenic purpura  
borderline HTN (not on medications)
Splenectomy (age ___ for ITP)
C-section
Left carotid body tumor s/p resection 
Low-normal B12                               
 
Social History:
___
Family History:
Pat GM with stroke (age ___. Maternal GF with PE. No history of
aneurysms, other clots, clotting disorders, bleeds, young
strokes, or ITP. Cousin with seizures as child.                  

 
Physical Exam:
==========================
PHYSICAL EXAM ON ADMISSION
==========================

Vitals:  T: 98.6F HR: 72-->101 BP: 114/70 RR: 16 SaO2: 97% on
2L-->98% on RA

General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple, +tongue
laceration (mostly on left lateral tongue, a little on underside
of tongue on right), no nuchal rigidity
___: warm and well-perfused
Pulmonary: no work of breathing
Abdomen: non-distended
Extremities: Warm, no edema

Neurologic Examination:
Please see above for NIHSS.

- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes ___ with categorical
prompts, ___ with MC prompts). No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands. Normal grasphesthesia.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No asterixis. Mild
postural tremor when hands are brought beneath chin but not when
elbows extended. No other adventitious movements.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    4+  4+  5    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  
Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing or heel
knee shin testing bilaterally.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg.

==========================
PHYSICAL EXAM ON DISCHARGE
==========================

Vitals:  T: 97.2F HR: 68 BP: 120/80 RR: 18 SaO2: 97% on RA

General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple, no nuchal 
rigidity
___: warm and well-perfused
Pulmonary: no work of breathing
Abdomen: non-distended
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 7. Attentive, able to 
name ___ backward without difficulty. Speech is fluent with full 
sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. No apraxia. No 
evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands. 

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No asterixis. Mild
postural tremor when hands are brought beneath chin but not when
elbows extended. No other adventitious movements.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    4+  4+  5    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  
Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing or heel
knee shin testing bilaterally.

- Gait: Normal initiation. Narrow based gait. Normal stride 
length and
arm swing. Stable without sway. Negative Romberg.
 
Pertinent Results:
=================
LABS ON ADMISSION
=================

___ 04:50PM URINE  HOURS-RANDOM
___ 04:50PM URINE  UCG-NEGATIVE
___ 04:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:50PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:50PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-40* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM*
___ 04:50PM URINE  RBC->182* WBC-48* BACTERIA-NONE 
YEAST-NONE EPI-1
___ 04:50PM URINE  MUCOUS-RARE*
___ 01:21PM   GLUCOSE-93 UREA N-12 CREAT-0.6 SODIUM-142 
POTASSIUM-3.6 CHLORIDE-108 TOTAL CO2-23 ANION GAP-11
___ 01:21PM   estGFR-Using this
___ 01:21PM   ALT(SGPT)-7 AST(SGOT)-17 CK(CPK)-196 ALK 
PHOS-58 TOT BILI-0.2
___ 01:21PM   LIPASE-21
___ 01:21PM   CK-MB-3 cTropnT-<0.01
___ 01:21PM   ALBUMIN-3.8 CALCIUM-8.6 PHOSPHATE-2.3* 
MAGNESIUM-1.9
___ 01:21PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 01:21PM   WBC-14.2* RBC-4.04 HGB-10.8* HCT-34.1 MCV-84 
MCH-26.7 MCHC-31.7* RDW-14.5 RDWSD-44.7
___ 01:21PM   NEUTS-83.3* LYMPHS-10.6* MONOS-5.1 EOS-0.1* 
BASOS-0.4 IM ___ AbsNeut-11.83* AbsLymp-1.50 AbsMono-0.72 
AbsEos-0.01* AbsBaso-0.06
___ 01:21PM   PLT COUNT-287
___ 01:21PM   ___ PTT-26.5 ___

================
MOST RECENT LABS
================

___ 06:00AM BLOOD WBC-7.8 RBC-4.09 Hgb-11.0* Hct-35.0 
MCV-86 MCH-26.9 MCHC-31.4* RDW-14.6 RDWSD-45.2 Plt ___
___ 06:00AM BLOOD ___ PTT-66.0* ___
___ 08:05AM BLOOD Glucose-96 UreaN-9 Creat-0.7 Na-142 K-3.9 
Cl-102 HCO3-25 AnGap-15

___ 06:00PM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)
Test                          Result              Reference 
Range/Units
B2 GLYCOPROTEIN I (IGG)AB     <9                  <=20 SGU
B2 GLYCOPROTEIN I (IGM)AB     <9                  <=20 SMU
B2 GLYCOPROTEIN I (IGA)AB     <9                  <=20 SAUT 

CARDIOLIPIN ANTIBODIES (IGG, IGM)
 
Test                          Result              Reference 
Range/Units
CARDIOLIPIN AB (IGG)          <14                 GPL
 
    Value       Interpretation
    -----       --------------
    < or = 14   Negative
    15 - 20     Indeterminate
    21 - 80     Low to Medium Positive
    >80         High Positive
 
Test                          Result              Reference 
Range/Units
CARDIOLIPIN AB (IGM)          <12                 MPL
 
    Value       Interpretation
    -----       --------------
    < or = 12   Negative
    13 - 20     Indeterminate
    21 - 80     Low to Medium Positive
    >80         High Positive
 
Test                          Result              Reference 
Range/Units
COMMENT                       See Below           
 
 
The antiphospholipid antibody syndrome (APS) is a
clinical-pathologic correlation that includes a clinical
event(e.g. thrombosis, pregnancy loss, thrombocytopenia)
and persistent positive antiphospholipid antibodies
(IgM or IgG ACA ___ MPL/GPL, IgM or IgG anti-b2GPI
antibodies or a lupus anticoagulant). The IgA isotype
has been implicated in smaller studies, but has not yet
been incorporated into the APS criteria. International
consensus guidelines suggest waiting at least 12 weeks
before retesting to confirm antibody persistence.
Reference J Thromb Haemost ___: 4;  295
 
THIS TEST WAS PERFORMED AT:
___  ___ 
___

==================     
DIAGNOSTIC STUDIES
==================

MRV ___:
IMPRESSION:
 1. Loss of flow related signal suggestive of dural venous sinus 
thrombosis involving the superior aspect of the superior 
sagittal sinus as well as the left transverse, sigmoid sinus and 
proximal left IJV.
2. The outside hospital CT demonstrates edema in the posterior 
left temporal lobe which may represent venous ischemia or 
infarction.
3. CT hyperdensity in the sulci overlying the left temporal lobe 
and posterior left sylvian fissure may represent sluggish venous 
flow or subarachnoid hemorrhage.
4. These findings may be better characterized with MRI.

CT Head, CTA Head and Neck ___:
CT HEAD WITHOUT CONTRAST:
Hyperdense changes in the superior aspect of the superior 
sagittal sinus, left transverse sinus, left sigmoid sinus as 
well as proximal left IJV in keeping with venous sinus 
thrombosis.  There is edema in the posterior aspect of the left 
temporal lobe with associated hyperdensity (series 2, image 12). 
 Linear sulcal based hyperdense structures overlying the left 
temporal lobe and in relation to the posterior aspect of the 
left insular cortex may represent thrombosed cortical veins.  
There is no intracranial mass.  The ventricular profile is 
normal.
 
Small mucous retention cyst in the anterior aspect of the left 
maxillary
sinus.  The visualized portion of the orbits are unremarkable.  
Multiple
palatine tonsilliths with mild symmetrical prominence of the 
tonsils.
 
CTA HEAD:
The arteries of the circle of ___ and their principal 
intracranial branches appear normal without stenosis, occlusion, 
or aneurysm formation.  Filling defects in the superior aspect 
of the superior sagittal sinus, left transverse, left sigmoid 
sinus and proximal left IJV.
 
CTA NECK:
The carotid and vertebral arteries and their major branches 
appear normal with no evidence of stenosis or occlusion. There 
is no evidence of internal carotid stenosis by NASCET criteria.
 
OTHER:
The visualized portion of the lungs are clear.  The visualized 
portion of the thyroid gland is within normal limits. There is 
no lymphadenopathy by CT size criteria.  Multiple surgical clips 
in the left carotid space at the C2-3 level.
 
IMPRESSION: 
Dural venous sinus thrombosis involving the superior aspect of 
the superior sagittal sinus, left transverse sinus, left sigmoid 
sinus as well as proximal left internal jugular vein.
 
Edema in the posterior aspect of the left temporal lobe may 
which represent edema due to to venous ischemia or infarction. 
Thrombosis is also noted in the overlying cortical veins.  MR 
may be helpful to further assess this.
 
Hyperdense changes in the posterior aspect of the temporal lobe 
may represent intraparenchymal hemorrhage or thrombosed veins.  
No active extravasation of contrast on the CTA study.
 
Subarachnoid hyperdensities may represent a subarachnoid 
hemorrhage or
thrombosed cortical veins.

MRI Brain ___:
IMPRESSION:
1. Dural venous sinus thrombosis involving the superior aspect 
of the superior sagittal sinus as well as the left transverse, 
left sigmoid sinus and proximal left internal jugular vein.
2. Associated cortical vein thrombosis in the left posterior 
temporal area.
3. Edema in the posterior left temporal lobe seen on T2 and 
FLAIR imaging
without corresponding slow diffusion on the DWI imaging may 
represent venous ischemia  or infarction.  Follow-up imaging may 
be performed to differentiate between these conditions.
4. FLAIR hyperintense signal seen in the subarachnoid space is 
nonspecific and may represent subarachnoid hemorrhage or 
sluggish venous flow.

 
Brief Hospital Course:
Ms. ___ is a ___ RH woman with a history of ITP 
(who recently completed a ___ therapy with prednisone) and 
remote left carotid body tumor s/p resection who presented with 
6 weeks of headache and neck pain, and a seizure with 
generalized features (LOC, convulsions of four extremities, 
foaming at the mouth, tongue biting, with a post-ictal period 
lasting 20 minutes characterized by decreased verbal output. Her 
neurologic exam was notable only for mild right finger extensor 
and IO weakness, and otherwise non-focal. Head CT showed small 
left temporoparietal subarachnoid hemorrhage and tiny 
intraparenchymal hemorrhages in the posterior temporal lobe; her 
MRI/MRV demonstrated acute thrombosis in the left transverse and 
sigmoid sinuses. She was started on heparin drip (PTT goal 
50-70), and her platelets were monitored closely and remained 
within normal limits. She was started on anticoagulation with 
warfarin with goal INR ___. At discharge, the dose of warfarin 
was 5mg daily. She will require close follow-up for her INR, 
this was discussed with her primary doctor who agreed to follow. 
ITP can be a predisposing risk factor for clotting, additionally 
she should undergo a complete hypercoagulable work-up which was 
initiated on admission. We sent anti-cardiordiolipin antibody 
IgG and IgM which were both negative. Beta-2-Glycoprotein 1 
Antibodies (IgA, IgM, IgG) was also sent and is pending. There 
are additional labs (protein S and C levels, Factor V Leiden 
mutation, prothrombin/anti-thrombin gene mutation that should be 
checked but were unable to be sent either due to effect of 
heparin on the values or due to insurance coverage for these 
tests when sent while inpatient. Those tests will need to be 
sent outpatient.

The headache was thought to be multifactorial, with some high 
pressure features (worse with lying flat); the neck pain may 
have been due to meningismus in the setting of SAH. Her seizure 
likely resulted from cortical irritation from the subarachnoid 
hemorrhage as well as the small intraparenchymal hemorrhages. 
She was started on Keppra 1000mg BID, which was decreased to 
750mg BID as patient was reporting drowsiness. We discussed the 
___ law prohibits patients to drive within 6 months of 
seizure, she expressed understanding. She will require follow-up 
with Neurology following discharge, appointment was requested. 

Transitional issues:
- monitor INR closely, goal INR ___ 
- complete hypercoagulability work-up outpatient by checking: 
protein C and S levels, Factor V Leiden mutation, 
prothrombin/anti-thrombin gene mutation
- follow-up with Hematology for ITP, Neurology for seizures and 
venous sinus thrombosis 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 800 mg PO DAILY 
2. Ranitidine 150 mg PO DAILY 
3. Cyanocobalamin Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN pain or temp > ___  
2.  LevETIRAcetam 750 mg PO BID 
RX *levetiracetam 750 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*2 
3.  Warfarin 5 mg PO DAILY16 
RX *warfarin [Coumadin] 5 mg 1 (One) tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
4.  Cyanocobalamin 800 mcg PO DAILY 
Same dose as on admission.  
5.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left transverse/sigmoid venous sinus thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital due to seizure in setting of 
prolonged history of headache and neck pain. Your seizure was 
most likely caused by a small bleeds which resulted from the 
back-pressure due to a clot in one of the large veins draining 
the blood from your brain. The veins involved include the 
superior aspect of the superior sagittal sinus aw well as the 
left transverse, left sigmoid sinus and proximal left internal 
jugular vein. There was also a small clot in the cortical vein 
in the left posterior temporal area. ITP is a known risk factor 
for thrombosis. We have also sent some labs to evaluate for 
conditions that have increased risk of clotting, thus far 
work-up has been negative, but additional tests will need to be 
sent following discharge and after discontinuation of heparin. 
You were started on a heparin drip and transitioned to Coumadin. 
Your platelets were followed closely and remained within normal 
limits throughout the hospitalization and treatment. Your INR 
was trended since starting Coumadin with goal INR between ___. 
Your INR will need to be followed closely by your primary care 
doctor. Your primary hematologist was made aware of your 
hospitalization and management plan. For seizures, you were 
started on an antiepileptic medication called Keppra, initial 
dose was 1000mg twice daily, but given side effect of 
drowsiness, the dose was decreased to 750mg twice daily. For 
safety, you should avoid bathing, swimming, climbing ladders, or 
operating heavy
machinery unattended. As discussed during the admission, the 
___ law prohibits patients to drive within 6 months of 
seizure. You will need a close follow-up with your primary care 
doctor, ___, and your neurologist. 

It was a pleasure taking care of you. We wish you the best!

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___